US07939528B2
A solution of the 1,3,5-trifluoro-2-nitrobenzene (7.08 g, 39.98 mmol) in tetrahydrofuran (50 mL) was stirred at 0 degrees Centigrade while a solution of 7N ammonia in methanol (23 mL) was added. The reaction turned deep red and was stirred overnight in a sealed tube. The mixture was filtered to remove NH4F and the solvent removed to give a red-orange solid which was purified by silica gel chromatography using 2:1 hexanes/ethyl acetate to give 6.27 g of 3,5-difluoro-2-nitroaniline.

reactant | 1,3,5-trifluoro-2-nitrobenzene | 39.98 mmol, 7.08 g | FC1=C(C(=CC(=C1)F)F)[N+](=O)[O-] | C6H2F3NO2
reactant | ammonia | 7N | N | H3N
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | methanol | 23 mL | CO | CH4O
product | 3,5-difluoro-2-nitroaniline | 6.27 g | FC=1C(=C(N)C=C(C1)F)[N+](=O)[O-] | C6H4F2N2O2
